US05750531
Step 3: 5,6-Dimethyl-4-(2-methyl-4-fluorophenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.3 ml, 3 mmol) was added to a mixture solution of 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine (0.4 g, 1.4 mmol) and dimethylformamide(10 ml), 0.14 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 2-methyl-4-fluoroaniline | 3 mmol, 0.3 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine | 1.4 mmol, 0.4 g | CC=1C(=NC(=NC1C)N1C(C2=C(CC1)C=CS2)C)Cl | C14H16ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethyl-4-(2-methyl-4-fluorophenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.14 g, Yield: 24% | Cl.CC=1C(=NC(=NC1C)N1C(C2=C(CC1)C=CS2)C)NC2=C(C=C(C=C2)F)C | InChI=1S/C21H23FN4S.ClH/c1-12-11-17(22)5-6-18(12)24-20-13(2)14(3)23-21(25-20)26-9-7-16-8-10-27-19(16)15(26)4;/h5-6,8,10-11,15H,7,9H2,1-4H3,(H,23,24,25);1H
